US07645784B2
To a solution of 2-[(2-hydroxyethyl)amino]-N,N-dimethyl-3-nitrobenzenesulfonamide (107 mg, 0.37 mmol) in methanol (2 mL) a solution of 85% sodium hydrosulfite (0.30 g, 1.5 mmol) in water (1.2 mL) was added. The obtained suspension was heated at 60° C. for 10 min. The volatiles were removed in vacuo, and the residue was partitioned between a saturated solution of sodium bicarbonate and ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated in vacuo affording 3-amino-2-[(2-hydroxyethyl)amino]-N,N-dimethylbenzenesulfonamide, 69 mg (72 %) as an oil: MS (ESI) m/z 260 [M+H].

reactant | 2-[(2-hydroxyethyl)amino]-N,N-dimethyl-3-nitrobenzenesulfonamide | 0.37 mmol, 107 mg | OCCNC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(C)C | C10H15N3O5S
reactant | sodium hydrosulfite | 1.5 mmol, 0.30 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 1.2 mL | O | H2O
product | 3-amino-2-[(2-hydroxyethyl)amino]-N,N-dimethylbenzenesulfonamide | NC=1C(=C(C=CC1)S(=O)(=O)N(C)C)NCCO | C10H17N3O3S
